US08865725B2
N-iodosuccinimide (73.4 mg, 0.33 mmol) was added to a stirred solution of 6-(4-fluoro-phenyl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (0.1 g, 0.3 mmol) in a mixture of ACN (2 mL) and acetic acid (2 mL). The mixture was stirred at RT for 3 days. The mixture was diluted with DCM and washed with a saturated solution of Na2CO3. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo. The crude product was triturated with MeOH to yield 6-(4-fluoro-phenyl)-3-iodo-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (46 mg, 56% yield) as a brown solid, that was used in the next step without further purification.

reactant | N-iodosuccinimide | 0.33 mmol, 73.4 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 6-(4-fluoro-phenyl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 0.3 mmol, 0.1 g | FC1=CC=C(C=C1)N1C(N2C(CC1)=NC(=C2)COC2=CC=CC=C2)=O | C19H16FN3O2
solvent | ACN | 2 mL | C(C)#N | C2H3N
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-(4-fluoro-phenyl)-3-iodo-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 46 mg, 56% yield | FC1=CC=C(C=C1)N1C(N2C(CC1)=NC(=C2I)COC2=CC=CC=C2)=O | C19H15FIN3O2
